US07119122B2
4-Methyl-2-nitrobenzonitrile (0.50 g, 3.1 mmol), 3-hydroxybenzaldehyde (0.38 g, 3.1 mmol) and cesium carbonate (1.00 g, 3.1 mmol) were heated with stirring in dry DMF (5 mL) at 80° C. for 28 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 0.1N sodium hydroxide solution (3×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-phenoxy)-4-methyl-benzonitrile (0.26 g, 36%) as a brown resin, and was carried forward without further purification.

reactant | 4-Methyl-2-nitrobenzonitrile | 3.1 mmol, 0.50 g | CC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
reactant | 3-hydroxybenzaldehyde | 3.1 mmol, 0.38 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | cesium carbonate | 3.1 mmol, 1.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-phenoxy)-4-methyl-benzonitrile | 0.26 g, 36% | C(=O)C=1C=C(OC2=C(C#N)C=CC(=C2)C)C=CC1 | C15H11NO2
